US07863332B2
In a manner similar to that of Example (5a), by reaction of 574 μl (3.17 mmol, 3 eq) of 4-butoxyphenyl isocyanate and 300 mg (1.06 mmol, 1 eq) of ethyl 3-(3′-methylaminobiphenyl-4-yl)propanoate at 100° C. by microwave for 15 minutes, 490 mg of ethyl 3-{3′-[3-(4-butoxyphenyl)-1-methylureido]biphenyl-4-yl}propanoate are obtained in the form of a white solid. Yield=97%

reactant | 4-butoxyphenyl isocyanate | 3.17 mmol, 574 μl, 3 eq | C(CCC)OC1=CC=C(C=C1)N=C=O | C11H13NO2
reactant | ethyl 3-(3′-methylaminobiphenyl-4-yl)propanoate | 1.06 mmol, 300 mg, 1 eq | CNC=1C=C(C=CC1)C1=CC=C(C=C1)CCC(=O)OCC | C18H21NO2
product | ethyl 3-{3′-[3-(4-butoxyphenyl)-1-methylureido]biphenyl-4-yl}propanoate | 490 mg, Yield=97% | C(CCC)OC1=CC=C(C=C1)NC(N(C)C=1C=C(C=CC1)C1=CC=C(C=C1)CCC(=O)OCC)=O | C29H34N2O4
